US07662826B2
To a solution of 2-phenyl- pyrazolo-[1,5-a]-pyrimidine-5-carboxylic acid (120 mg), and triethylamine (0.091 ml) in tetrahydrofuran (10 ml), ethyl chlorocarbonate (0.053 ml) was added at −40° C. It was further added with a solution of 2-morpholinobenzylamine (115 mg) in tetrahydrofuran (2 ml), and thereafter heated to −20° C. The reaction solution was distilled under a reduced pressure, and then water was added thereto, extracted with chloroform, and the organic layer was dried with magnesium sulfate. After the reduced-pressure distillation of the solvent, the residue was purified by a silica gel column chromatography, and thereafter recrystallized from acetone-diisopropyl ether to yield N-(2-morpholinophenyl)methyl 2-phenyl-pyrazolo-[1,5-a]-pyrimidine-5-amide (142 mg, 69%). mp: 190-192° C.

reactant | 2-phenyl- pyrazolo-[1,5-a]-pyrimidine-5-carboxylic acid | 120 mg | C1(=CC=CC=C1)C1=NN2C(N=C(C=C2)C(=O)O)=C1 | C13H9N3O2
reactant | triethylamine | 0.091 ml | C(C)N(CC)CC | C6H15N
reactant | 2-morpholinobenzylamine | 115 mg | O1CCN(CC1)C1=C(CN)C=CC=C1 | C11H16N2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl chlorocarbonate | 0.053 ml | C(OCC)(=O)Cl | C3H5ClO2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | N-(2-morpholinophenyl)methyl 2-phenyl-pyrazolo-[1,5-a]-pyrimidine-5-amide | 142 mg, 69% | O1CCN(CC1)C1=C(C=CC=C1)CNC(=O)C1=NC=2N(C=C1)N=C(C2)C2=CC=CC=C2 | C24H23N5O2
